US05847231
For example, in Case No. 9 of the above table, the yield of the para nitro isomer (4-nitro isomer), i.e., 5-hydroxy-2-nitrobenzonitrile, is 32.5%, and in Case No. 10 the yield of the para nitro isomer, i.e., 5-hydroxy-2-nitrobenzaldehyde, is 38.47%. Studies have been done in order to separate a single objective nitrated product from such an isomeric mixture. For example, Hornig reported that 5-hydroxy-2-nitrobenzaldehyde in purified form was obtained in 34% yield by recrystallization from water after direct nitration of 3-hydroxybenzaldehyde in benzene. The present inventors followed this procedure, but could not achieve the objective of obtaining the pure product in such a high yield.

reactant | 5-hydroxy-2-nitrobenzonitrile | OC=1C=CC(=C(C#N)C1)[N+](=O)[O-] | C7H4N2O3
reactant | 5-hydroxy-2-nitrobenzaldehyde | OC=1C=CC(=C(C=O)C1)[N+](=O)[O-] | C7H5NO4
product | 3-hydroxybenzaldehyde | 34% yield | OC=1C=C(C=O)C=CC1 | C7H6O2
